US08252820B2
A. 2-Benzyloxy-6-fluorobenzoic acid benzyl ester
To a mixture of 2.6 g (16.7 mmol) of 2-fluoro-6-hydroxybenzoic acid and 6.90 g (50 mmol) of potassium carbonate in 15 mL DMF is slowly added 8.5 g (50 mmol) of benzyl bromide. The mixture is stirred at room temperature for 5 h. Another 1 g of benzyl bromide is added and the mixture is stirred at RT for 18 h. The mixture is poured into water and is extracted with ethyl acetate. The organic phase is washed (3×) with water and 1× with saturated NaCl. The solution is dried over sodium sulfate and the solvent removed under vacuum. The residual oil is purified by flash chromatography to give the product. This is used directly in the next step.

reactant | 2-fluoro-6-hydroxybenzoic acid | 16.7 mmol, 2.6 g | FC1=C(C(=O)O)C(=CC=C1)O | C7H5FO3
reactant | potassium carbonate | 50 mmol, 6.90 g | C([O-])([O-])=O.[K+].[K+]
reactant | benzyl bromide | 50 mmol, 8.5 g | C(C1=CC=CC=C1)Br | C7H7Br
reactant | benzyl bromide | 1 g | C(C1=CC=CC=C1)Br | C7H7Br
reactant | water | O | H2O
solvent | DMF | 15 mL | CN(C)C=O | C3H7NO
product | 2-Benzyloxy-6-fluorobenzoic acid benzyl ester | C(C1=CC=CC=C1)OC(C1=C(C=CC=C1F)OCC1=CC=CC=C1)=O | C21H17FO3
